US08349851B2
To (4-fluorophenyl) (4-(5-methyl-1H-pyrazol-3-ylamino)-7-(trifluoromethyl)quinazolin-2-yl) methanone (500 mg, 1.2 mmol) in a 1:1 mixture of MeOH/THF (10 mL) at 0° C. was added NaBH4 (68 mg, 1,79 mmol). After 10 min of stirring at 0° C., 10 drops of water were added. The solvents were removed under vacuum and the residue was dissolved in a mixture of 1:1 of water EtOAc (20 mL), washed with brine and dried over sodium sulfate. The crude product (360 mg) was purified on reverse-phase preparative HPLC (elution gradient of 40-90% acetonitrile in water with 0.05% acetic acid) to afford (4-fluorophenyl)(4-(5-methyl-1H-pyrazol-3-ylamino)-7-(trifluoromethyl)quinazolin-2-yl)methanol as white solid (140 mg, 40%). 1H NMR (300 MHz, DMSO-d6) δ ppm 2.2 (s, 3 H) 5.9(s, 1H) 6.55 (s, 1 H) 7.35-7.5(m, 3H) 7.9-8.0(m, 1H) 8.05-8.3 (m, 4H) 11.1 (br. s, 1 H) 12.25 (br. s., 1 H) LC-MS (ESI) m/z 418 (M+H)+.

reactant | (4-fluorophenyl) (4-(5-methyl-1H-pyrazol-3-ylamino)-7-(trifluoromethyl)quinazolin-2-yl) methanone | 1.2 mmol, 500 mg | FC1=CC=C(C=C1)C(=O)C1=NC2=CC(=CC=C2C(=N1)NC1=NNC(=C1)C)C(F)(F)F | C20H13F4N5O
reactant | NaBH4 | 1,79 mmol, 68 mg | [BH4-].[Na+]
catalyst | water | 10 drops | O | H2O
solvent | MeOH THF | 10 mL | CO.C1CCOC1
product | (4-fluorophenyl)(4-(5-methyl-1H-pyrazol-3-ylamino)-7-(trifluoromethyl)quinazolin-2-yl)methanol | 140 mg, 40% | FC1=CC=C(C=C1)C(O)C1=NC2=CC(=CC=C2C(=N1)NC1=NNC(=C1)C)C(F)(F)F | C20H15F4N5O
